US07435823B2
Step (a) Preparation of 2-chloro-N-(2,4-dihydroxyphenyl)acetamide
To a solution of 4-aminoresorcinol hydrochloride (30 g, 0.1857 mol) in CH2Cl2, (460 mL) TEA (77.6 mL, 0.557 mol) was added at 0° C. To the resulting mixture, chloroacetyl chloride (14.78 mL, 0.1857 mol) was added drop wise and the solution was stirred for 60 h at RT. The crude product was washed through a plug of silica gel with CH2Cl2 and purified through column chromatography using 100% CH2Cl2→25%→50%→75% 90:10:1 CH2Cl2:MeOH:NH4OH. The solution was concentrated in vacuo to give the title compound. MS (ESI, pos. ion) m/z: 202 (M+1). Mass calc'd for C8H8ClNO3: 201.02.

reactant | 4-aminoresorcinol hydrochloride | 0.1857 mol, 30 g | Cl.NC1=C(C=C(O)C=C1)O
reactant | chloroacetyl chloride | 0.1857 mol, 14.78 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 460 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2,4-dihydroxyphenyl)acetamide | ClCC(=O)NC1=C(C=C(C=C1)O)O | C8H8ClNO3
